US08877975B2
1-(1-(3-fluorophenyl)cyclohexyl)-N,N-dimethylmethanamine (107)
The title compound was prepared from 1-(3-fluorophenyl)cyclohexane-carbaldehyde (103 mg, 0.50 mmol) and dimethylamine (2.0 M in THF, 2.5 ml, 5.0 mmol) according to General Procedure H2.The crude product was purified by column chromatography (SiO2, MeOH/CH2Cl2, MeOH from 0% to 15%) to give 1-(1-(3-fluorophenyl)cyclohexyl)-N,N-dimethylmethanamine (46 mg, 39%) as a clear oil. 1H NMR (CDCl3): δ 1.32-1.38 (m 3H), 1.49-1.56 (m, 3H), 1.59-1.66 (m, 2H), 1.99 (s, 6H), 2.05-2.09 (m, 2H), 2.33 (s, 2H), 6.83-6.88 (m, 1H), 7.08 (d, J=8.0 Hz, 1H), 7.14 (d, J=8.0 Hz, 1H), 7.23-7.29 (m, 1H). 13C NMR (CDCl3) δ 22.4, 26.8, 34.4, 43.6, 48.6, 72.9, 112.2, 112.4, 114.6, 114.8, 123.2, 129.4, 129.5, 162.0, 164.5.ESI MS m/z 236.

reactant | 1-(3-fluorophenyl)cyclohexane-carbaldehyde | 0.50 mmol, 103 mg | FC=1C=C(C=CC1)C1(CCCCC1)C=O | C13H15FO
reactant | dimethylamine | 5.0 mmol, 2.0 M, 2.5 ml | CNC | C2H7N
product | 1-(1-(3-fluorophenyl)cyclohexyl)-N,N-dimethylmethanamine | 46 mg, 39% | FC=1C=C(C=CC1)C1(CCCCC1)CN(C)C | C15H22FN
